US05714437
First, 50 g of 1-[4-chloro-6-fluoro-3-hydroxy-2-(2-methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione was dissolved in 500 ml of chloroform, to which 30.0 g of m-chloroperbenzoic acid was added, and the reaction was allowed to proceed at 60° C. for 4.5 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and subjected to phase separation with chloroform and aqueous sodium sulfite solution. The organic layer was successively washed with saturated aqueous sodium bicarbonate solution and water, dried and concentrated. The residue was recrystallized to afford 46 g of 1-[4-chloro-6-fluoro-3-hydroxy-2-(2,3-epoxy-2-methylpropyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione.

reactant | 1-[4-chloro-6-fluoro-3-hydroxy-2-(2-methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 50 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC(=C)C)O | C16H13ClF4N2O3
reactant | m-chloroperbenzoic acid | 30.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-chloro-6-fluoro-3-hydroxy-2-(2,3-epoxy-2-methylpropyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 46 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC1(CO1)C)O | C16H13ClF4N2O4
